US04221737
1-Nitro-2-(2-propynylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene (BL-5949)
A mixture of 1-nitro-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene prepared according to Belgian Pat. No. 814,941 (4.0 g, 0.014 mole) and distilled propargylamine (7.74 g, 0.14 mole) in acetonitrile (60 ml) was stirred at reflux temperature under a positive pressure of nitrogen for 18 hours. The reaction mixture was cooled, evaporated to dryness and then triturated under 20 ml of isopropyl alcohol to give the title compound (3.58 g, 87%). Column chromatography on silica gel by gradient elution using methylene chloride-methanol gave a pure sample; mp 159°-160° dec.

reactant | 1-nitro-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)SC | C10H16N4O2S2
reactant | propargylamine | 0.14 mole, 7.74 g | C(C#C)N | C3H5N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 1-Nitro-2-(2-propynylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | 3.58 g, 87% | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)NCC#C | C12H17N5O2S
